US05646173
A solution of 1.45 g of (RS)-6-methoxy-2-(2-oxopropyl)-1-indanone and 60 mg of p-toluenesulfonic acid in 70 ml of anhydrous toluene was heated on a water separator. A solution of 2.0 g of (R)-1-amino-2-propanol in 20 ml of anhydrous toluene was added dropwise to the boiling solution over a period of 5 minutes. Subsequently, the mixture was boiled for an additional 90 minutes, during which time the solvent was reduced to a volume of 20 ml. The cooled reaction mixture was purified by column chromatography on silica gel (ethyl acetate/toluene 2:3). 1.05 g (61%) of (R)-1-(7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol were obtained as a yellow solid with m.p. 110°.

reactant | (RS)-6-methoxy-2-(2-oxopropyl)-1-indanone | 1.45 g | COC1=CC=C2CC(C(C2=C1)=O)CC(C)=O | C13H14O3
reactant | water | O | H2O
reactant | (R)-1-amino-2-propanol | 2.0 g | NC[C@@H](C)O | C3H9NO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 60 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (R)-1-(7-methoxy-2-methyl-1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-propan-2-ol | 1.05 g, 61% | COC1=CC=C2CC3=C(N(C(=C3)C)C[C@@H](C)O)C2=C1 | C16H19NO2
